US05212187
N-cyano-N'-[3-[N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]propyl]-N"-[4-[3-(piperidinomethyl)phenoxy]butyl]guanidine
Preparation is effected analogously to Example 1, using 0.50 g (1.6 mmol) of N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,3-propanediamine and the equimolar amount of N-cyano-O-phenyl-N'-[4-[3-(piperidinomethyl)phenoxy]butyl]isourea as starting materials. Working up by chromatography analogously to Example 1 yields the purified title compound in the form of a viscous oil; MS (+FAB method): m/z (rel. int. [%])=629 ([M+H]+, 18), 229 (98), 109 (100); IR (KBr): 2164 cm-1 (C≡N). For further analysis, a portion of the compound is converted into the O,O'-ditoluoyltartaric acid salt and recrystallised from isopropanol/ether; m.p.: 102°-105° C. (isopropanol/ether).

reactant | N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,3-propanediamine | 1.6 mmol, 0.50 g | FC1=CC=C(CN(C2=NC=CC=C2)CCN(CCCN)C)C=C1 | C18H25FN4
reactant | N-cyano-O-phenyl-N'-[4-[3-(piperidinomethyl)phenoxy]butyl]isourea | C(#N)NC(OC1=CC=CC=C1)=NCCCCOC1=CC(=CC=C1)CN1CCCCC1 | C24H30N4O2
product | N-cyano-N'-[3-[N-[2-[N-(4-fluorobenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]propyl]-N"-[4-[3-(piperidinomethyl)phenoxy]butyl]guanidine | C(#N)NC(=NCCCCOC1=CC(=CC=C1)CN1CCCCC1)NCCCN(C)CCN(C1=NC=CC=C1)CC1=CC=C(C=C1)F | C36H49FN8O
